US08729078B2
In a 25 mL round-bottomed flask, 6-(6-ethoxypyridin-3-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (110 mg, 416 μmol, Eq: 1.00), 6-tert-butyl-8-fluoro-2-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-4-yl)phthalazin-1(2H)-one (161 mg, 458 μmol, Eq: 1.10) and copper acetate (102 mg) were combined with 1,2-Dichloroethane (3 ml) to give a blue suspension. Pyridine (65.8 mg, 67.3 μl, 832 μmol, Eq: 2) was added. The reaction mixture was heated to 45° C. and stirred for 2 d. The reaction mixture was poured into 20 mL sat NH4Cl and extracted with EtOAc (3×20 mL). The organic layers were dried over MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 40 g, 5% to 10% MeOH in DCM) then by SFC to give 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-6-(6-ethoxypyridin-3-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (36 mg, 15%).

reactant | 6-(6-ethoxypyridin-3-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 416 μmol, 110 mg | C(C)OC1=CC=C(C=N1)C1=CC=C2C(=N1)NC=C2C#N | C15H12N4O
reactant | 6-tert-butyl-8-fluoro-2-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-4-yl)phthalazin-1(2H)-one | 458 μmol, 161 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C1=CC=CC=2B(OCC21)O | C19H18BFN2O3
reactant | Pyridine | 832 μmol, 67.3 μl, 65.8 mg | N1=CC=CC=C1 | C5H5N
reactant | NH4Cl | [NH4+].[Cl-]
catalyst | copper acetate | 102 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | 1,2-Dichloroethane | 3 ml | ClCCCl | C2H4Cl2
product | 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-6-(6-ethoxypyridin-3-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 36 mg, 15% | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C=2C1=NC(=CC2)C=2C=NC(=CC2)OCC)C#N)CO | C34H29FN6O3
